US04324792
1-(Imidazol-2-yl)-1-(4-methylphenyl)-3-(1-pyrrolidyl)propane
A solution of n-butyl lithium in hexane (1.6 M, 7.7 ml) was added dropwise under nitrogen with stirring to a suspension of 2-(1-pyrrolidyl)ethyltriphenylphosphonium bromide (5.41 g) in dry THF (75 ml) keeping the temperature at -10° to -5°. The addition was complete after 5 min. The mixture was then stirred at 0° for 20 min. then cooled to -5° and treated with a solution of (1-ethoxymethylimidazol-2-yl)-4-methylphenylmethanone (3.0 g) in dry THF (30 ml). The mixture was stirred at room temperature for 16 h. and then the precipitated triphenylphosphine oxide was filtered off and washed with a little THF (10 ml). The filtrate and washings were combined and concentrated in vacuo to a yellow syrup. This was absorbed from chloroform (3 ml) onto a column of silica gel (Merck Kieselgel 60, 200 g). Removal of the solvent afforded isomers of the title compound as a thick yellow brown syrup (3.52 g) which was used in the next stage without further purification.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2-(1-pyrrolidyl)ethyltriphenylphosphonium bromide | 5.41 g | [Br-].N1(CCCC1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | (1-ethoxymethylimidazol-2-yl)-4-methylphenylmethanone | 3.0 g | C(C)OCN1C(=NC=C1)C(=O)C1=CC=C(C=C1)C | C14H16N2O2
solvent | hexane | 1.6 M, 7.7 ml | CCCCCC | C6H14
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-(Imidazol-2-yl)-1-(4-methylphenyl)-3-(1-pyrrolidyl)propane | 3.52 g | N1C(=NC=C1)C(CCN1CCCC1)C1=CC=C(C=C1)C | C17H23N3
